US05969140
To a suspension of 1-(2-bromo-4-pyridyl)-2,3-bis(methoxycarbonyl)-6,7-dimethoxynaphthalene (15.0 g) in tetrahydrofuran (150 ml) is added sodium borohydride (6.16 g), and the mixture is refluxed. To the mixture is added a mixture of methanol (60 ml) and tetrahydrofuran (60 ml) under reflux over a period of five hours. After the reaction is complete, the mixture is concentrated under reduced pressure to remove the solvent, and methyl chloride are an aqueous sodium hydrogen carbonate solution are added to the residue. The methylene chloride layer is separated, washed, dried and concentrated under reduced pressure to remove the solvent. The residue is crystallized from isopropyl ether to give 1-(2-bromo-4-pyridyl)-2,3-bis(hydroxymethyl)-6,7-dimethoxynaphthalene (11.86 g).

reactant | 1-(2-bromo-4-pyridyl)-2,3-bis(methoxycarbonyl)-6,7-dimethoxynaphthalene | 15.0 g | BrC1=NC=CC(=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)OC)C(=O)OC)C(=O)OC | C21H18BrNO6
reactant | sodium borohydride | 6.16 g | [BH4-].[Na+]
reactant | methanol | 60 ml | CO | CH4O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 1-(2-bromo-4-pyridyl)-2,3-bis(hydroxymethyl)-6,7-dimethoxynaphthalene | 11.86 g | BrC1=NC=CC(=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)OC)CO)CO | C19H18BrNO4
